US07232821B2
3-{2-[5-Methyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}-6-aminobenzoic acid ethyl ester
Prepared by general procedure C(iii) but using 2-(2-benzyloxy-5-methylphenyl)cyclopentene-1-boronic acid instead of 2-(2-benzyloxy-5-chlorophenyl)cyclopentene-1-boronic acid and 2-amino-5-iodobenzoic acid ethyl ester instead of 2-chloropyrimidine-4-carboxylic acid methyl ester.

reactant | 2-(2-benzyloxy-5-methylphenyl)cyclopentene-1-boronic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C)C1=C(CCC1)B(O)O | C19H21BO3
reactant | 2-amino-5-iodobenzoic acid ethyl ester | C(C)OC(C1=C(C=CC(=C1)I)N)=O | C9H10INO2
product | 3-{2-[5-Methyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}-6-aminobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1N)C1=C(CCC1)C1=C(C=CC(=C1)C)OCC1=CC=CC=C1)=O | C28H29NO3
